Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([C:2]([NH:3][C:4]([c:5]1[n:6][c:7]([CH2:8][NH:9][C:10]([O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16])[s:17][cH:18]1)=[O:19])([CH3:20])[CH3:21])=[O:22].[CH2:23]=[CH:24][C@H:25]([CH2:26][C:27](=[O:28])[O:29][C:30]([CH3:31])([CH3:32])[CH3:33])[O:34][C:35](=[O:36])[C@@H:37]([NH2:38])[CH:39]([CH3:41])[CH3:40]>>[C:1]([C:2]([NH:3][C:4]([c:5]1[n:6][c:7]([CH2:8][NH:9][C:10]([O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16])[s:17][cH:18]1)=[O:19])([CH3:20])[CH3:21])(=[O:22])[NH:38][C@H:37]([C:35]([O:34][C@H:25]([CH:24]=[CH2:23])[CH2:26][C:27](=[O:28])[O:29][C:30]([CH3:31])([CH3:32])[CH3:33])=[O:36])[CH:39]([CH3:40])[CH3:41],[OH:101][C:1]([C:2]([NH:3][C:4]([c:5]1[n:6][c:7]([CH2:8][NH:9][C:10]([O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16])[s:17][cH:18]1)=[O:19])([CH3:20])[CH3:21])=[O:22].[CH2:23]=[CH:24][C@H:25]([CH2:26][C:27](=[O:28])[O:29][C:30]([CH3:31])([CH3:32])[CH3:33])[O:34][C:35](=[O:36])[C@@H:37]([NH2:38])[CH:39]([CH3:40])[CH3:41].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C:2]([NH:3][C:4]([c:5]1[n:6][c:7]([CH2:8][NH:9][C:10]([O:11][C:12]([CH3:13])([CH3:14])[CH3:15])=[O:16])[s:17][cH:18]1)=[O:19])([CH3:20])[CH3:21])(=[O:22])[NH:38][C@H:37]([C:35]([O:34][C@H:25]([CH:24]=[CH2:23])[CH2:26][C:27](=[O:28])[O:29][C:30]([CH3:31])([CH3:32])[CH3:33])=[O:36])[CH:39]([CH3:40])[CH3:41],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (38, 1), ([1, 22], 22), (303, 38.1), ([38.1, 38], 38), (22, [22, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH3:8].[N-:9]=[N+:10]=[N-:11]>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH3:8])[N:9]=[N+:10]=[N-:11],[Br:101][CH2:1][CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH3:8].[N-:9]=[N+:10]=[N-:11]>>[CH2:1]([CH2:2][CH2:3][CH2:4][CH2:5][CH2:6][CH2:7][CH3:8])[N:9]=[N+:10]=[N-:11],SN2,"[(9, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][CH:2]([CH3:3])[N:4]=[C:5]=[O:6].[O:7]=[C:8]1[CH:9]([OH:10])[S:11][CH2:12][N:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][CH:2]([CH3:3])[NH:4][C:5](=[O:6])[O:10][CH:9]1[C:8](=[O:7])[N:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:12][S:11]1,[O:7]=[C:8]1[CH:9]([OH:10])[S:11][CH2:12][N:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1.[CH3:1][CH:2]([CH3:3])[N:4]=[C:5]=[O:6].[H-:301].[Na+].[OH2]>>[CH3:1][CH:2]([CH3:3])[NH:4][C:5](=[O:6])[O:10][CH:9]1[C:8](=[O:7])[N:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:12][S:11]1,alcohol_attack_to_carbonyl_or_sulfonyl,"[(301, 10.1), ([10.1, 10], 10), (10, 5), ([5, 6], 6), (6, [6, 5]), ([5, 4], 4)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@H:2]([CH:3]([CH3:4])[CH3:5])[NH:6][C:7](=[O:8])[O:9][CH2:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)=[O:17].[CH3:18][CH2:19][O:20][C:21](=[O:22])[CH2:23][NH2:24]>>[C:1]([C@H:2]([CH:3]([CH3:4])[CH3:5])[NH:6][C:7](=[O:8])[O:9][CH2:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)(=[O:17])[NH:24][CH2:23][C:21]([O:20][CH2:19][CH3:18])=[O:22],[OH:101][C:1]([C@H:2]([CH:3]([CH3:4])[CH3:5])[NH:6][C:7](=[O:8])[O:9][CH2:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)=[O:17].[CH3:18][CH2:19][O:20][C:21](=[O:22])[CH2:23][NH2:24].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@H:2]([CH:3]([CH3:4])[CH3:5])[NH:6][C:7](=[O:8])[O:9][CH2:10][c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)(=[O:17])[NH:24][CH2:23][C:21]([O:20][CH2:19][CH3:18])=[O:22],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (24, 1), ([1, 17], 17), (303, 24.1), ([24.1, 24], 24), (17, [17, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([c:2]1[cH:12][cH:11][c:5]([NH:6][S:7]([CH3:8])(=[O:9])=[O:10])[cH:4][cH:3]1)=[O:13].[CH3:14][N:15]1[CH2:16][CH2:17][N:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[CH2:25][CH:26]1[CH2:27][NH2:28]>>[C:1]([c:2]1[cH:3][cH:4][c:5]([NH:6][S:7]([CH3:8])(=[O:9])=[O:10])[cH:11][cH:12]1)(=[O:13])[NH:28][CH2:27][CH:26]1[N:15]([CH3:14])[CH2:16][CH2:17][N:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[CH2:25]1,[CH3:14][N:15]1[CH2:16][CH2:17][N:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[CH2:25][CH:26]1[CH2:27][NH2:28].[Cl:101][C:1]([c:2]1[cH:3][cH:4][c:5]([NH:6][S:7]([CH3:8])(=[O:9])=[O:10])[cH:11][cH:12]1)=[O:13]>>[C:1]([c:2]1[cH:3][cH:4][c:5]([NH:6][S:7]([CH3:8])(=[O:9])=[O:10])[cH:11][cH:12]1)(=[O:13])[NH:28][CH2:27][CH:26]1[N:15]([CH3:14])[CH2:16][CH2:17][N:18]([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[CH2:25]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(28, 1), ([1, 13], 13), (13, [13, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
